US08729263B2
To a suspension of 3-(benzyloxy)-4-bromo-5-methoxybenzoic acid (2.0 g, 5.93 mmol) and 4 drops of DMF in DCM (40 mL) was slowly added oxalyl chloride (0.57 mL, 6.52 mmol). After three hours the solvent was removed and the residue redissolved into DCM (10 mL). To this solution was slowly added a mixture of propargylamine (0.46 mL, 7.12 mmol) and triethylamine (2.5 mL, 17.8 mmol) in DCM (2 mL). After 30 minutes the solution was diluted with ether, washed with water (2×), 1 M hydrochloric acid (2×), water, saturated sodium bicarbonate, brine, dried over magnesium sulfate and concentrated to a yellow solid. The solid was triturated with diethyl ether and dried under vacuum to provide 3-(benzyloxy)-4-bromo-5-methoxy-N-(prop-2-yn-1-yl)benzamide (1.88 g) as an off-white solid. MS=374.0 (M+1).

reactant | 3-(benzyloxy)-4-bromo-5-methoxybenzoic acid | 5.93 mmol, 2.0 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1Br)OC | C15H13BrO4
reactant | oxalyl chloride | 6.52 mmol, 0.57 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | propargylamine | 7.12 mmol, 0.46 mL | C(C#C)N | C3H5N
reactant | triethylamine | 17.8 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-(benzyloxy)-4-bromo-5-methoxy-N-(prop-2-yn-1-yl)benzamide | 1.88 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NCC#C)C=C(C1Br)OC | C18H16BrNO3
